US04124593
The starting material is prepared as follows: The solution of 1.77 g of N-(4-nitro-2-iodomethylphenyl)-4-chlorophthalimide and 1.0 g of silver acetate in 32 ml of acetic acid is refluxed for one hour with protection from light. It is filtered, the filtrate evaporated and the residue recrystallized from ethyl acetate-diethyl ether, to yield the N-(2-acetoxymethyl-4-nitrophenyl)-4-chlorophthalimide melting at 124°-125°.

reactant | N-(4-nitro-2-iodomethylphenyl)-4-chlorophthalimide | 1.77 g | [N+](=O)([O-])C1=CC(=C(C=C1)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O)CI | C15H8ClIN2O4
reactant | acetic acid | 32 ml | C(C)(=O)O | C2H4O2
catalyst | silver acetate | 1.0 g | C(C)(=O)[O-].[Ag+]
product | N-(2-acetoxymethyl-4-nitrophenyl)-4-chlorophthalimide | C(C)(=O)OCC1=C(C=CC(=C1)[N+](=O)[O-])N1C(C=2C(C1=O)=CC(=CC2)Cl)=O | C17H11ClN2O6
